US05444082
Potassium tert-butylate (1.44 g) was added in small portions, at 0° C. under nitrogen atmosphere, to a solution of 1.40 g of tosylmethylisocyanide and 1.00 g of 3-hydroxy-9-oxo-spiro[5.5]undecane (II-a, Prep. 1) dissolved in 7 ml of anhydrous tetrahydrofuran and 0.53 ml of absolute ethanol. After 0.5 hrs at room temperature, the mixture was filtered on an alumina cake. The cake was washed with dichloromethane and the filtrates, dried over anhydrous sodium sulfate, were evaporated under reduced pressure to give 0.52 g of crude 9-hydroxy-3-cyano-spiro[5.5]undecane as a light oil. [TLC: Rf=0.52 (SiO2 plates, diethylether). 1H-NMR (300 MHz, CDCl3, ppm from TMS): 3.63 (1H, hept), 2.57 (1H, m), 1.90-1.05 (16H, m)].

reactant | Potassium tert-butylate | 1.44 g | CC(C)(C)[O-].[K+]
reactant | tosylmethylisocyanide | 1.40 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | 3-hydroxy-9-oxo-spiro[5.5]undecane | 1.00 g | OC1CCC2(CC1)CCC(CC2)=O | C11H18O2
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | ethanol | 0.53 ml | C(C)O | C2H6O
product | 9-hydroxy-3-cyano-spiro[5.5]undecane | 0.52 g | OC1CCC2(CCC(CC2)C#N)CC1 | C12H19NO
